US05273991
A solution of N-(N',N'-dimethylaminoethyl) 1-methyl-4-{1-methyl-4[1-methyl-4-nitroimidazole-2-carboxamido]imidazole-2-carboxamido}imidazole-2-carboxamide (248 mg, 0.510 mmol) in methanol (35 mL) was hydrogenated over 5% Pd on carbon (118 mg) at room temperature and atmospheric pressure until TLC analysis indicated complete reduction of the starting material (5 h). The catalyst was removed by filtration. Concentration of the filtrate gave a residue which was coevaporated with dry THF (20 mL, twice) to give N-(N',N'-dimethylaminoethyl)-2-methyl-4-{1-methyl-4[1-methyl-4-aminoimidazole-2-carboxamido]imidazole-2-carboxamido}imidazole-2-carboxamide as an off-white powder. p-N,N-Bis(2-chloroethyl)aminobenzoyl chloride was prepared by dissolving p-N,N-Bis(2-chloroethyl)aminobenzoic acid (13.4 mg, 0.510 mmol) in benzene (2 mL) and thionyl chloride (2 mL) and heating to reflux under a drying tube for 1.25 h. (The solution turned from purple to green upon addition of thionyl chloride). The excess thionyl chloride and solvent were then removed under reduced pressure and the residue coevaporated with dry CH2Cl2 (10 mL, once).

reactant | p-N,N-Bis(2-chloroethyl)aminobenzoic acid | 0.510 mmol, 13.4 mg | ClCCN(CCCl)C1=CC=C(C(=O)O)C=C1 | C11H13Cl2NO2
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
product | p-N,N-Bis(2-chloroethyl)aminobenzoyl chloride | ClCCN(CCCl)C1=CC=C(C(=O)Cl)C=C1 | C11H12Cl3NO
